US07816526B2
Synthesis of 1-(2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-3-(4,6-dimethoxypyrimidin-2-yl)urea (Compound No. 38)
2-Chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide (0.49 g, 1.78 mmol), phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate (0.55 g, 2 mmol) and acetonitrile (5 ml) were introduced into a 25-ml eggplant type flask and stirred at room temperature, and DBU (0.31 g, 2 mmol) was added all at once thereto, and the mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction solution was poured into water (50 ml) and adjusted to about pH 2 with dilute hydrochloric acid, whereby crystals were formed. The crystals were collected by filtration, washed with water, acetone and ether in this order and dried under reduced pressure to give the title compound as pale brown crystals.

reactant | 2-Chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 1.78 mmol, 0.49 g | ClC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C9H11ClN4O2S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 2 mmol, 0.55 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | DBU | 2 mmol, 0.31 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-3-(4,6-dimethoxypyrimidin-2-yl)urea | ClC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C16H18ClN7O5S
